reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C+:2]([O:3][C:5](=[O:6])[H:10])[N-:4][H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],21.0697939143993
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](\[O:5][H:12])(=[C:6](\[O:7][H:10])[H:13])[H:11]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],24.20335689637639
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:9])([H:10])[H:11].[O:1]([C:2][H:8])[H:7],84.2947323204032
[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4](=[C:5]([H:14])[H:15])([H:12])[H:13].[O:1]([C:2]([C:3]([O:6][H:16])([H:10])[H:11])([H:8])[H:9])[H:7],110.760429987265
[C:1](/[C:2](=[N:3]/[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:13])[H:14]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],41.46670371814939
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C-:4]=[O+:5][C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],47.74454522930061
[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],76.47017954954713
[C:1]([C@@:2]1([C:6]#[C:7][H:15])[O:3][C:4]1([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],57.095669983056005
[N:1]([C@@:2]1([H:10])[O:3][C@@:4]1([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],62.41907046647
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:7]/[C:6](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],75.6282637213738
[O:1]([C:2](/[C:3](=[C:4](/[O:5][H:12])[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],49.2274565738517
[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7]>>[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:8])([H:6])[H:7],54.262294127560395
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C-:1]([N+:2](=[C:3]([H:10])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:8])[H:9].[H:7][H:11],71.2508593672192
[N:1](/[C:2](=[N:3]/[C:4](=[O:5])[H:9])[H:7])([H:6])[H:8]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],39.34051547917259
[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15])([H:6])([H:7])[H:8]>>[C:1]([C:2][H:9])([H:6])([H:7])[H:8].[C:3]1([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15],112.92938126517201
[C:1]([O:4]/[C:3](=[N:2]/[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],53.225647020336886
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:12])[H:16])\[H:15],80.7837409188517
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:3]=[C-:2][O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],110.22127577405399
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1](/[C:6](=[C:5]1\[C:2]([H:8])([H:9])[C@:3]1([O:4][H:11])[H:10])[H:12])[H:7],72.2056948125021
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[O:1]=[C:2]([N+:4]#[C-:3])[C:5]#[N:6],45.3348162872441
[C:1]([C:2]([C:4](=[C:3])[C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],9.039544295960596
[C:1]([C:2]([O:3][C:4](=[O:5])[H:12])=[C:6]=[C:7]([H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],66.6153001042418
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:15])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5](=[O:6])[H:16])[H:14])([H:12])[H:13],93.4397197931204
[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6]>>[C:3]=[N:4][H:5].[N:1](=[C:2]([H:7])[H:8])[H:6],59.46509768184399
[C:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],40.4937698641782
